datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:33])([H:34])[H:35])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]([H:15])[H:16])[H:14])([H:12])[H:13].[C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:33])([H:34])[H:35])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18],313.624272
[N-:0]([N+:1]([N:2]([H:6])[H:7])([H:4])[H:5])[H:3]>>[N:0](=[N:1][H:5])[H:3].[N:2]([H:4])([H:6])[H:7],41.2
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19]([C:20]([H:23])([H:24])[H:25])([H:21])[H:22]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[H:11][C:19]([C:20]([H:23])([H:24])[H:25])([H:21])[H:22],61.1701
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5].[O:10]([O:11][H:13])[H:12]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:6])[H:12])([H:3])([H:4])[H:5].[O:10][O:11][H:13],0.16736
[C:0]([C:1]([C:2]([H:14])([H:15])[H:16])=[C:3]([C:4]([H:17])([H:18])[H:19])[c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])([H:11])([H:12])[H:13].[C:25]([C:26](=[C:27]([H:31])[H:32])[H:30])([H:28])[H:29]>>[C:0]([C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([C:4]([H:17])([H:18])[H:19])[c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[C:25]([C:26](=[C:27]([H:31])[H:32])[H:30])([H:28])[H:29])([H:11])([H:12])[H:13],53.6389
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[C:12]([C:13]([C:14]([H:21])([H:22])[H:23])=[C:15]([C:16]([H:24])([H:25])[H:26])[C:17]([H:27])([H:28])[H:29])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[C:13]([C:12]([H:18])([H:19])[H:20])([C:14]([H:21])([H:22])[H:23])[C:15]([C:16]([H:24])([H:25])[H:26])[C:17]([H:27])([H:28])[H:29])[H:7])([H:5])[H:6],76.0651
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])=[C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[H:14])([H:12])[H:13].[C:26](=[C:27]([C:28]([C:29](=[C:30]([H:36])[H:37])[H:35])[H:34])[H:33])([H:31])[H:32]>>[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])([C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[C:28]([C:27](=[C:26]([H:31])[H:32])[H:33])([C:29](=[C:30]([H:36])[H:37])[H:35])[H:34])[H:14])([H:12])[H:13],73.0108
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9]([C:10]([C:11]([H:23])([H:24])[H:25])=[C:12]([C:13]([H:26])([H:27])[H:28])[c:14]1[c:15]([H:29])[c:16]([H:30])[c:17]([H:31])[c:18]([H:32])[c:19]1[H:33])([H:20])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:12]([C:10]([C:9]([H:20])([H:21])[H:22])[C:11]([H:23])([H:24])[H:25])([C:13]([H:26])([H:27])[H:28])[c:14]1[c:15]([H:29])[c:16]([H:30])[c:17]([H:31])[c:18]([H:32])[c:19]1[H:33])[H:4],51.4214
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5](=[C:6]([H:17])[H:18])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])([H:7])[H:8]>>[C:0](=[C:1]([C:2]([H:10])[H:11])[H:9])([H:7])[H:8].[C:3]([C:4]([C:5](=[C:6]([H:17])[H:18])[H:16])([H:14])[H:15])([H:12])[H:13],313.624272
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])[H:9])[H:8])([H:6])[H:7].[C:16]([C:17]([C:18]([H:28])([H:29])[H:30])[c:19]1[c:20]([H:31])[c:21]([H:32])[c:22]([H:33])[c:23]([H:34])[c:24]1[H:35])([H:25])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[C:5]([H:14])[H:15])[H:13])[H:8])([H:6])[H:7].[H:9][C:17]([C:16]([H:25])([H:26])[H:27])([C:18]([H:28])([H:29])[H:30])[c:19]1[c:20]([H:31])[c:21]([H:32])[c:22]([H:33])[c:23]([H:34])[c:24]1[H:35],-7.5312
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[C:10]([C:11]([S:12][H:23])([c:13]1[c:14]([H:24])[c:15]([H:25])[c:16]([H:26])[c:17]([H:27])[c:18]1[H:28])[H:22])([H:19])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:22])[H:5].[C:10]([C:11]([S:12][H:23])[c:13]1[c:14]([H:24])[c:15]([H:25])[c:16]([H:26])[c:17]([H:27])[c:18]1[H:28])([H:19])([H:20])[H:21],10.46
[C:0](=[C:1]([H:3])[H:4])[H:2].[H:5]>>[C:0]=[C:1]([H:3])[H:4].[H:2][H:5],0.0
[C:0]([C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([C:4]([O:5][O:6][H:19])([H:17])[H:18])[O:7][O:8])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([H:15])[H:16])([C:4]([O:5][O:6][H:19])([H:17])[H:18])[O:7][O:8][H:14])([H:12])[H:13])([H:9])([H:10])[H:11],140.164
